US06699405B2
a) 4-Chloro-3-methylphenyl Acetate
43.0 g (0.30 mol) of 4-chloro-3-methylphenol, 34 ml (0.36 mol) of acetic anhydride and a few drops of concentrated sulfuric acid were stirred for 2 h at 60° C. in a 250 ml flask equipped with a reflux condenser. The reaction mixture was cooled to room temperature, poured into 200 ml of water and stirred for 1 h at room temperature. The mixture was then extracted with 400 ml of diethyl ether. The organic phase was dried over magnesium sulfate and the ether was distilled off. The raw product is subsequently distilled under reduced pressure (b.p. 65-68° C., 20 mbar).

reactant | 4-chloro-3-methylphenol | 0.30 mol, 43.0 g | ClC1=C(C=C(C=C1)O)C | C7H7ClO
reactant | acetic anhydride | 0.36 mol, 34 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | a few drops | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 ml | O | H2O
product | 4-Chloro-3-methylphenyl Acetate | C(C)(=O)OC1=CC(=C(C=C1)Cl)C | C9H9ClO2
